US07153889B2
(2R)-2-methyl-1-[2-(4-nitrophenyl)ethyl]pyrrolidine
(2R)-2-Methylpyrrolidine L-tartrate (4.0 g, 17.0 mmol), 1-(2-bromoethyl)-4-nitrobenzene (9.8 g, 43 mmol), and potassium carbonate (12 g, 85 mmol), were combined in DMF (20 mL) in a sealed tube at 50° C. and stirred vigorously for 16 hours. The mixture was allowed to cool to room temperature, diluted with diethyl ether (100 mL), washed with water (2 times, 100 mL and then 50 mL), and extracted with 1 M HCl (2 times, 50 mL and 25 mL). The aqueous acidic extractions were combined, washed with diethyl ether (50 mL), cooled to 0° C., adjusted to pH 14 with 50% NaOH solution, and extracted with dichloromethane (3 times, 50 mL). The dichloromethane extractions were combined, dried (MgSO4), filtered, and the filtrate concentrated to provide the title compound. 1H NMR (300 MHz, CDCl3) δ 1.08 (d, J=6 Hz, 3H), 1.43 (m, 1H), 1.75 (m, 2H), 1.93 (m, 1H), 2.19 (q, J=9 Hz, 1H), 2.34 (m, 2H), 2.91 (m, 2H), 3.03 (m, 1H), 3.22 (td, J=8, 3 Hz, 1H), 7.38 (d, J=9 Hz, 2H), 8.15 (d, J=9 Hz, 2H); MS (DCI/NH3) m/z 235 (M+H)+.

reactant | (2R)-2-Methylpyrrolidine L-tartrate | 17.0 mmol, 4.0 g | C(=O)(O)[C@H](O)[C@@H](O)C(=O)O.C[C@H]1NCCC1
reactant | 1-(2-bromoethyl)-4-nitrobenzene | 43 mmol, 9.8 g | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | potassium carbonate | 85 mmol, 12 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | (2R)-2-methyl-1-[2-(4-nitrophenyl)ethyl]pyrrolidine | C[C@H]1N(CCC1)CCC1=CC=C(C=C1)[N+](=O)[O-] | C13H18N2O2
